US07902226B2
3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]pyrrolidine
3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine (3.01 g, 8.40 mmol) was dissolved in ethanol (120 ml), and after adding a 10% palladium carbon catalyst (water content: 50%; 3.0 g), it was stirred at 40° C. for 5 hours under a hydrogen atmosphere at atmospheric pressure. After performing filtration through cellite (ethanol washing), the filtrate was concentrated under a reduced pressure. As a result, 2.16 g (quantitative) of the title compound was obtained in the form of a colorless syrup.

reactant | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidine | 8.40 mmol, 3.01 g | C(C)(C)(C)OC(=O)N(CC)C1(CC1)[C@H]1CN(CC1)[C@@H](C)C1=CC=CC=C1 | C22H34N2O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium carbon | 3.0 g | [C].[Pd]
product | 3-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]pyrrolidine | C(C)(C)(C)OC(=O)N(CC)C1(CC1)[C@H]1CNCC1 | C14H26N2O2
